US07238724B2
(2S,5S)-1-(2-Chloro-acetyl)-5-methyl-pyrrolidine-2-carbonitrile
(2S,5S)-1-(2-Chloro-acetyl)-5-methyl-pyrrolidine-2-carboxylic acid amide (0.25 g, 1.2 mmol) and imidazole (85 mg, 1.25 mmol) ware mixed in pyridine (5 mL). The mixture was cooled to −35° C. and POCl3 (0.18 mL, 1.8 mmol) was added slowly. The mixture was stirred at −35° C. for 1 h. Saturated NH4Cl (20 mL) was added, and the mixture was extracted with EtOAc (3×). The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The oil was purified by flash chromatography (hexane:EtOAc, 2:1) to yield the title compound. MS (DCI) m/z 187 (M+H)+.

reactant | (2S,5S)-1-(2-Chloro-acetyl)-5-methyl-pyrrolidine-2-carboxylic acid amide | 1.2 mmol, 0.25 g | ClCC(=O)N1[C@@H](CC[C@@H]1C)C(=O)N | C8H13ClN2O2
reactant | imidazole | 1.25 mmol, 85 mg | N1C=NC=C1 | C3H4N2
reactant | POCl3 | 1.8 mmol, 0.18 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | (2S,5S)-1-(2-Chloro-acetyl)-5-methyl-pyrrolidine-2-carbonitrile | ClCC(=O)N1[C@@H](CC[C@@H]1C)C#N | C8H11ClN2O
